US06498169B1
Synthesis of 4-[N-Methyl-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]amino]piperidine
To a solution of 1-(ethoxycarbonyl)-4-[N-methyl-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]amino]piperidine (100 mg) in ethanol (2 mL) was added 4 M sodium hydroxide (8 mL). The mixture was refluxed overnight and extracted with chloroform. The organic layer was washed with water and brine, dried over anhydrous sodium sulfate and evaporated. The residue was subjected to a column of silica gel and liquid chromatography was performed using chloroform-methanol (20:1) to give the title compound as yellow syrup.

reactant | 1-(ethoxycarbonyl)-4-[N-methyl-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]amino]piperidine | 100 mg | C(C)OC(=O)N1CCC(CC1)N(CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC)C | C24H33N3O5
reactant | sodium hydroxide | 4 M, 8 mL | [OH-].[Na+]
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 4-[N-Methyl-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]amino]piperidine | CN(CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC)C1CCNCC1 | C21H29N3O3
